US09227985B2
(4S)-2-(1-Acetylpiperidin-4-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
To the solution of tert-butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperidine-1-carboxylate (8.8 mg, 0.017 mmol) in methanol (1 mL) was added 4.0 M hydrogen chloride in dioxane (1 ml) at room temperature. The resulting mixture was stirred at room temperature for 10 min. The solvents were then evaporated under a steam of nitrogen. Triethylamine (0.23 mL, 1.7 mmol) was added to the resulting residue, followed by acetyl chloride (0.029 mL, 0.41 mmol). The mixture was then stirred under a stream of nitrogen for 5 min at room temperature, followed by removal of solvents and residual reagents. Purification by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) afforded the title compound (6.3 mg, 81%). LCMS for C26H28O3N5 (M+H)+: calculated m/z=458.2. found 458.2.

reactant | tert-butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperidine-1-carboxylate | 0.017 mmol, 8.8 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C2CCN(CC2)C(=O)OC(C)(C)C)C | C29H33N5O4
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | Triethylamine | 1.7 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.41 mmol, 0.029 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 1 mL | CO | CH4O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (4S)-2-(1-Acetylpiperidin-4-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 6.3 mg, 81% | C(C)(=O)N1CCC(CC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C26H27N5O3
